US07189850B2
d) 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one
To a solution of 81 g 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one in 960 ml methanol and 24 ml acetic acid were added 21.2 g 10% Pd on charcoal and stirred for 16 h under a hydrogen atmosphere at ambient temperature. The reaction mixture was filtered, concentrated, diluted with 100 ml water, made alkaline with sat NaHCO3 solution and extracted with dichloromethane. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and evaporated. The residue, 23 g crude product, was crystallised from AcOEt: 6.6 g 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one as colorless crystals: MS (ISP): 250.2 MH+.

reactant | 8-benzyl-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]dec-2-en-4-one | 81 g | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC=C(C=C2)F)=O)CC1 | C20H20FN3O
solvent | methanol | 960 ml | CO | CH4O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
catalyst | Pd on charcoal | 21.2 g | [Pd] | Pd
product | 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
